* E:\ltspice\circuit.asc
V1 +V 0 15V Rser=10
V2 0 -V 15V Rser=10
V3 Vi 0 SINE(0 .007 10000)
R3 N003 V1st 8.2K tol=5
R4 V2nd N003 56K tol=5
R5 V3rd N002 56K tol=5
R6 N002 V2nd 8.2K tol=5
C1 V1C V3rd 820nF
R7 V1C 0 10k
R9 Vpoweramp 0 8
R11 N005 V1C 10K
R12 Vpoweramp N005 10K
Q1 +V N001 N004 0 Qmje15034
Q2 -V N009 N008 0 Qmje15035
C2 +V 0 1000nF V=10 Irms=0 Rser=4 Lser=0
C5 +V 0 820nF
C3 0 -V 1000nF V=10 Irms=0 Rser=4 Lser=0
C4 0 -V 820nF
XU1 0 N005 +V -V N006 LF411/MC
XU2 0 N002 +V -V V3rd LF411/MC
XU3 0 N003 +V -V V2nd LF411/MC
XU4 Vi N007 +V -V V1st LF411/MC
R1 V1st N007 62K
R2 N007 0 6.2K
R8 +V N001 533
R10 N009 -V 533
D1 N006 N009 D
D2 N001 N006 D
D3 N004 Vpoweramp D
D4 Vpoweramp N008 D
.model D D
.lib C:\Users\fishi\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\fishi\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran .0005
* Preamp
* Filters
* Poweramp
.inc MJE15034.LIB
.inc MJE15035.LIB
.inc LF411.LIB
.backanno
.end
