* E:\ltspice\circuit.asc
V1 +V 0 16V Rser=25
V2 0 -V 16V Rser=25
V3 Vi 0 SINE(0 .07 20000)
R3 N005 V1st 9K tol=5
R4 V2nd N005 56K tol=5
R5 V3rd N003 56K tol=5
R6 N003 V2nd 10K tol=5
C1 V1C V3rd 820nF
R7 V1C 0 10k
R11 N007 V1C 10K
R12 N006 N007 10K
C2 +V 0 1250nF V=10 Irms=0 Rser=4 Lser=0
C5 +V 0 500nF
C3 0 -V 1250nF V=10 Irms=0 Rser=4 Lser=0
C4 0 -V 500nF
XU7 0 N005 +V -V V2nd level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU8 0 N003 +V -V V3rd level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU5 0 N007 +V -V N006 LF411/MC
XU1 Vi N009 +V -V V1st LF411/MC
R1 V1st N009 8.2K
R2 N009 0 62K
Q1 +V N001 N002 0 qmje15034
Q3 -V N012 N011 0 qmje15035
R8 N008 0 8
R9 +V N001 533
R10 N012 -V 533
D1 N006 N010 D
D2 N010 N012 D
D3 N001 N004 D
D4 N004 N006 D
Q2 +V N002 N008 0 qmje15034
Q4 -V N011 N008 0 qmje15035
.model D D
.lib C:\Users\fishi\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\fishi\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran .0005
* Preamp
* Filters
.inc MJE15034.LIB
.inc MJE15035.LIB
.inc LF411.LIB
.lib UniversalOpamps2.sub
.backanno
.end
